US04652658
To a stirred solution of 113.23 g (0.686 mol) of chloral hydrate in 2 liters of water was added 419 g (2.95 mol) of sodium sulfate, followed by a solution prepared from 89.25 g (0.70 mol) of 3-chloroaniline, 62 ml of concentrated hydrochloric acid and 500 ml of water. A thick precipitate formed. To the reaction mixture was then added, with stirring, a solution of 155 g (2.23 mol) of hydroxylamine in 500 ml of water. Stirring was continued and the reaction mixture was warmed slowly and it was maintained between 60° and 75° C. for approximately 6 hours, during which time an additional 1 liter of water had been added to facilitate stirring. The reaction mixture was then cooled and the precipitate was recovered by filtration. The wet solid was dried to give 136.1 g of isonitroso-3-chloroacetanilide.

reactant | chloral hydrate | 0.686 mol, 113.23 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 2.95 mol, 419 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-chloroaniline | 0.70 mol, 89.25 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | hydrochloric acid | 62 ml | Cl | ClH
reactant | hydroxylamine | 2.23 mol, 155 g | NO | H3NO
solvent | water | 2 liters | O | H2O
solvent | water | 500 ml | O | H2O
solvent | water | 1 liter | O | H2O
solvent | water | 500 ml | O | H2O
product | 3-chloroacetanilide | CC(=O)NC1=CC(=CC=C1)Cl | C8H8ClNO
